US09422314B2
Step 4: (R)-3-(2-(4-(aminomethyl)-1-(nitromethyl)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid
Prepared from 3-[2-{2-[4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester and BCl3 following the procedure described in Step 2 of Example 1. The crude product was purified by reverse phase preparative HPLC and dried using lyophilization. ESI-MS m/z 420 (MH)+.

reactant | 3-[2-{2-[4-(tert-Butoxycarbonylamino-methyl)-1-nitromethyl-cyclohexyl]-acetylamino}-2-(2,9,9-trimethyl-3,5-dioxa-4-bora-tricyclo[6.1.1.02,6]dec-4-yl)-ethyl]-2-methoxy-benzoic acid tert-butyl ester | C(C)(C)(C)OC(C1=C(C(=CC=C1)CC(B1OC2(C3C(C(CC2O1)C3)(C)C)C)NC(CC3(CCC(CC3)CNC(=O)OC(C)(C)C)C[N+](=O)[O-])=O)OC)=O | C39H60BN3O10
reactant | BCl3 | B(Cl)(Cl)Cl | BCl3
product | (R)-3-(2-(4-(aminomethyl)-1-(nitromethyl)cyclohexyl)acetamido)-2-hydroxy-3,4-dihydro-2H-benzo[e][1,2]oxaborinine-8-carboxylic acid | NCC1CCC(CC1)(C[N+](=O)[O-])CC(=O)N[C@@H]1B(OC2=C(C1)C=CC=C2C(=O)O)O | C19H26BN3O7
